US08895603B2
To a solution of tert-butyl 6a-hydroxy-3a,4,6,6a-tetrahydropyrrol[3,4-c]pyrazole-5(1H)-carboxylate (47.0 kg, 207 mol) in dichloromethane (669 kg) at 0° C. was added a methanol solution of toluene-4-sulfonic acid monohydrate (3.7 kg, 20 mol in 38 kg MeOH) drop-wise over 2 h. The reaction was then aged for 4 h at this temperature. Then, 5% aqueous NaHCO3 (91 kg) was added and stirred at room temperature for 30 min. The layers were then separated and the aqueous extracted with dichloromethane (312 kg). The combined organics were washed with 5% brine (190 kg then 483 kg), treated with activated carbon (2.7 kg) and filtered. The resulting organics were dried with Na2SO4, filtered, and concentrated to 71-118 L. n-Heptane was then added (238 kg) and the batch further concentrated to 188-235 L. The slurry was cooled to 10-20° C., filtered, and the cake washed with n-heptane. The solids were dried under vacuum at 40-50° C. overnight to give tert-butyl 4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate.

reactant | tert-butyl 6a-hydroxy-3a,4,6,6a-tetrahydropyrrol[3,4-c]pyrazole-5(1H)-carboxylate | 207 mol, 47.0 kg | OC12NN=CC1CN(C2)C(=O)OC(C)(C)C | C10H17N3O3
reactant | methanol | CO | CH4O
reactant | toluene-4-sulfonic acid monohydrate | 20 mol, 3.7 kg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaHCO3 | 91 kg | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 669 kg | ClCCl | CH2Cl2
product | tert-butyl 4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate | N1N=CC2=C1CN(C2)C(=O)OC(C)(C)C | C10H15N3O2
